US05728712
N-(3,4-Dimethoxybenzenesulphonyl)-3-phenylisocarbostyril.
A solution of 3-phenylisocarbostyril (0.1 g) in N,N-dimethylformamide (2 ml) was cooled to 0° C. under an inert atmosphere. Sodium hydride (0.019 g) was added and the resulting mixture stirred at 0° C. for 5 minutes. 3,4-Dimethoxybenzenesulphonylchloride (0.107 g) was added over a 3 minute period, with continued stirring at 0° C. for a further 15 minutes. The reaction mixture was warmed to room temperature and stirred for 24 hours. The DMF was evaporated under high vacuum and the residue partitioned between ethyl acetate (2×12 ml) and water (12 ml). The combined organic phases were dried over magnesium sulphate and concentrated in vacuo to yield a yellow oil. Purification using column chromatography eluting with 50% ethyl acetate in hexane yielded an oil which was crystallized from ethyl acetate/hexane to furnish the title compound as white crystals (0.089 g).

reactant | 3-phenylisocarbostyril | 0.1 g | C1(=CC=CC=C1)C=1NC(=O)C2=CC=CC=C2C1 | C15H11NO
reactant | Sodium hydride | 0.019 g | [H-].[Na+]
reactant | 3,4-Dimethoxybenzenesulphonylchloride | 0.107 g | COC=1C=C(C=CC1OC)S(=O)(=O)Cl | C8H9ClO4S
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | N-(3,4-Dimethoxybenzenesulphonyl)-3-phenylisocarbostyril | 0.089 g | COC=1C=C(C=CC1OC)S(=O)(=O)N1C(=O)C2=CC=CC=C2C=C1C1=CC=CC=C1 | C23H19NO5S
